US09278983B2
A mixture of N-ethyl-(5-trifluoromethylpyridin-2-yl)-amine (1.0 g) and sulfuric acid (7 ml) was stirred with heating at 95° C., and then a mixture of fuming nitric acid (0.45 ml) and sulfuric acid (3 ml) were added thereto, and stirred with heating for 1 hour. The reaction mixture cooling to room temperature was poured into ice, and then saturated aqueous sodium hydrogen carbonate solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to give 600 mg of N-ethyl-(3-nitro-5-trifluoromethylpyridin-2-yl)-amine.

reactant | N-ethyl-(5-trifluoromethylpyridin-2-yl)-amine | 1.0 g | C(C)NC1=NC=C(C=C1)C(F)(F)F | C8H9F3N2
reactant | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.45 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-ethyl-(3-nitro-5-trifluoromethylpyridin-2-yl)-amine | 600 mg | C(C)NC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H8F3N3O2
